2172-05-25 10:25:00 Physician Attending Progress Note
Chief Complaint: Hypox resp failure in the setting of aspiration.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2172-5-24**] 07:48 PM
   Allergies:
   Haldol (Oral) (Haloperidol)
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2172-5-24**] 09:00 PM
   Ampicillin - [**2172-5-25**] 06:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Norepinephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2172-5-24**] 10:50 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-5-25**] 10:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 108 (94 - 122) bpm
   BP: 86/40(52) {78/40(52) - 126/69(77)} mmHg
   RR: 20 (11 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Mixed Venous O2% Sat: 82 - 82
   Total In:
                                                                  2,762 mL
                                                                  1,194 mL
   PO:
   TF:
   IVF:
                                                                  2,762 mL
                                                                  1,194 mL
   Blood products:
   Total out:
                                                                     83 mL
                                                                     88 mL
   Urine:
                                                                     83 mL
                                                                     88 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,679 mL
                                                                  1,106 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 550 (485 - 582) mL
   PS : 15 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 21 cmH2O
   SpO2: 95%
   ABG: 7.26/42/184/18/-7
   Ve: 12 L/min
   PaO2 / FiO2: 368
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bases b/l)
   Abdominal: Non-tender, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.0 g/dL
   185 K/uL
   66 mg/dL
   1.8 mg/dL
   18 mEq/L
   4.2 mEq/L
   32 mg/dL
   114 mEq/L
   144 mEq/L
   32.2 %
   17.6 K/uL
        [image002.jpg]
                             [**2172-5-24**]  09:23 PM
                             [**2172-5-25**]  03:28 AM
   WBC
   17.6
   Hct
   32.2
   Plt
   185
   Cr
   1.8
   TCO2
   20
   Glucose
   66
   Other labs: PT / PTT / INR:20.0/44.4/1.9, ALT / AST:70/113, Alk Phos /
   T Bili:149/7.8, Differential-Neuts:84.8 %, Lymph:11.5 %, Mono:2.3 %,
   Eos:0.9 %, Lactic Acid:2.6 mmol/L, LDH:270 IU/L, Ca++:8.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.6 mg/dL
   Imaging: CXR [**5-25**]: ETT in good position, b/l lower lobe infiltrates.
   Assessment and Plan
   58 y/o M with history of ETOH cirrhosis c/b encephalopathy, ascites and
   portal gastropathy with recent UGIB.  Found today to be apneic with
   respiratory arrest and likely aspiration s/p intubation and transferred
   to the MICU
   >Aspiration and Hypox Respiratory failure:  new b/l infiltrates and
   temporal history consistent with aspiration event. Will cont support
   ventilation seems reasonable to change to Pip-tazo and Vancomycin.
   - Trial precedex as an alternative to
   - Cont Abx
   - Renally dose Abx
   > Hypotension: ? early sepsis from aspiration event on the back drop of
   liver failure and illeus.  No evidence of bleed.
    -Cont NE and vasopressin
   - Cont supportive fluid
   - Cont Abx as above
   -
   > Renal failure: Cr trending up from baseline 1.3 with little urine
   output, could be hepato-renal syndrome versus ATN from hypotension.
   - Check urine lytes
   - Renal consult: ? octreotide for HRS
   > Illeus: check KUB, follow serial lactate. Change lactulose to PR.
   > Liver failure with Esoph Varices: recent GI bleed no evidence of
   underlying encephalopathy as a an etiology
   - Cont Rifax and lactulose
   Access: will need an arterial line to monitor PaO2 and blood pressure
   and add CVC.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2172-5-24**] 07:48 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:  Family updated
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2172-05-31 06:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Decreased OGT output; KUB showed OGT in stomach
   -Hepatology recommended trophic tube feeds, which were started and
   increased to 20cc/hr
   -Vanco trough 20.3, dose timing switched to 8pm
   -Bladder pressure [**7-3**]
   -Urine lytes demonstrate pre-renal, creatinine climbing; gave 1L normal
   saline, creatinine mildly worse (2.1) with similar urine lytes,
   consistent with hepatorenal syndrome
   Allergies:
   Haldol (Oral) (Haloperidol)
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2172-5-30**] 08:00 PM
   Meropenem - [**2172-5-30**] 08:00 PM
   Metronidazole - [**2172-5-30**] 08:00 PM
   Erythromycin - [**2172-5-31**] 04:46 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2172-5-30**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2172-5-30**] 10:29 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-5-31**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.5
   HR: 88 (68 - 93) bpm
   BP: 99/56(73) {85/42(61) - 117/61(84)} mmHg
   RR: 19 (14 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.4 kg (admission): 103.7 kg
   Height: 69 Inch
    CVP: 11 (9 - 16)mmHg
   Bladder pressure: 10 (10 - 10) mmHg
   Total In:
                                                                  2,914 mL
                                                                    577 mL
   PO:
   TF:
                                                                     90 mL
                                                                    140 mL
   IVF:
                                                                  2,464 mL
                                                                    237 mL
   Blood products:
   Total out:
                                                                  1,042 mL
                                                                    344 mL
   Urine:
                                                                    812 mL
                                                                    344 mL
   NG:
                                                                    230 mL
   Stool:
   Drains:
   Balance:
                                                                  1,872 mL
                                                                    233 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   PIP: 26 cmH2O
   SpO2: 99%
   ABG: 7.31/40/147/20/-5
   Ve: 10 L/min
   PaO2 / FiO2: 294
   Physical Examination
   GEN: nad, non responsive
   HEENT: copious oral secretions
   CARD: RRR, no m/r/g
   PULM: diffuse ronchi bilaterally anteriorly
   ABD: moderate distension, ascites
   EXT: anasarca, weeping fluid
   NEURO: minimally responsive to pain (withdraws in LE
s) or verbal
   stimuli
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   102 K/uL
   8.4 g/dL
   188 mg/dL
   2.1 mg/dL
   20 mEq/L
   4.7 mEq/L
   82 mg/dL
   108 mEq/L
   138 mEq/L
   25.9 %
   18.4 K/uL
        [image002.jpg]
                             [**2172-5-29**]  03:47 PM
                             [**2172-5-29**]  06:23 PM
                             [**2172-5-29**]  09:13 PM
                             [**2172-5-30**]  12:30 AM
                             [**2172-5-30**]  03:08 AM
                             [**2172-5-30**]  05:54 AM
                             [**2172-5-30**]  04:09 PM
                             [**2172-5-30**]  10:43 PM
                             [**2172-5-31**]  03:08 AM
                             [**2172-5-31**]  03:14 AM
   WBC
   20.4
   18.2
   18.4
   Hct
   25.4
   26.0
   25.9
   Plt
   114
   108
   102
   Cr
   2.0
   2.0
   2.0
   2.1
   TCO2
   21
   22
   23
   23
   22
   21
   Glucose
   165
   172
   195
   188
   Other labs: PT / PTT / INR:22.3/65.5/2.1, CK / CKMB /
   Troponin-T:177/5/, ALT / AST:25/57, Alk Phos / T Bili:179/5.7,
   Differential-Neuts:79.0 %, Band:6.0 %, Lymph:5.0 %, Mono:5.0 %, Eos:0.0
   %, Fibrinogen:219 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:2.9 g/dL,
   LDH:210 IU/L, Ca++:8.4 mg/dL, Mg++:2.5 mg/dL, PO4:6.8 mg/dL
   ASSESSMENT/PLAN: 58 y/o M with history of ETOH cirrhosis c/b
   encephalopathy, ascites and portal gastropathy with recent UGIB.  Found
   today to be apneic with respiratory arrest and likely aspiration s/p
   intubation and transferred to the MICU.
   # Sepsis / Resp. failure:  Multifocal pneumonia most likely aspiration
   pneumonia.
   -continue broad spectrum abx, only + culture data is meropenem
   sensitive enterobacter from sputum; d/c flagyl as no evidence of c.
   diff
   -continue to wean pressors to keep MAP > 70mmHg
   -continue IV hydrocort at 50mg IV q8hrs
   -continue aggressive suctioning and reglan / erythromycin to help w/
   gut promotility with plans for d/c tomorrow, OG tube to low
   intermittent suction
   -creatinine slightly higher following large volume para (4L), with
   improvement in oxygentation; consider period paracentesis to decrease
   compromise of his respiratory status related to abdominal compression
   - f/u cultures- blood and sputum
   -attempt to wean FiO2 to 40 % and ABG afterwards
   # ARF: Muddy brown casts in urine, [**1-27**] ATN initially; ? component of
   hepatorenal syndrome now, given unresponsive to 1L normal saline bolus,
   with electrolytes demonstrating prerenal.
   - renal following
 will ask about midodrine/octreotide, albumin
   - trend, slowly improving
   # Anemia: on [**5-13**] showed severe portal gastropathy and grade II
   varices. The patient is s/p banding x4.
   -continue to trend, currently stable
   -daily hct
   -transfuse for Hct <21 or active bleeding
   -IV PPI
   #. Ileus: OGT to low intermittent wall suction, no obstruction. OGT in
   place on [**5-30**], with trophic feedings initiated.
   - continue metoclopramide, erythromycin
   - likely start lactulose tomorrow
   # Mental status: depressed at least from hepatic encephalopathy, in
   addition to toxic metabolic insults (sedation).  If improves from ileus
   standpoint can start lactulose.
   # EtoH Cirrhosis: Complicated by encephalopathy, ascites, varices with
   recent UGIB.  LFTs improving. Encephalopathy management as above
   - hold lasix/spironolactone given hypotension
   - cont to trend LFTs
   # Coagulopathy: INR elevated
   - Trend coags
   # Diabetes type II:  currently FS relatively well controlled on current
   regimen
   -continue home insulin regimen
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2172-5-24**] 07:48 PM
   Multi Lumen - [**2172-5-25**] 03:35 PM
   Arterial Line - [**2172-5-28**] 08:45 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2172-06-06 10:32:00 Physician Attending Progress Note
Chief Complaint: 58 M cirrhosis with recent aspiration PNA and resp
   arrest
   I saw and examined the patient, and was physically present with the ICU
   resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   IV lasix bolus then drip
 trying to run negative.
   Ileus with reglan, erythromycin
   Starting to wake up.
   Echo: LVEF 70-80%, otherwise unremarkable.
   Allergies:
   Haldol (Oral) (Haloperidol)
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2172-6-6**] 08:00 AM
   Meropenem - [**2172-6-6**] 08:00 AM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Insulin - Regular - 4 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2172-6-6**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2172-6-6**] 08:00 AM
   Other medications: MVI, PPI, folic acid, B12, Peridex, thiamine,
   PhosLo, lactose, heparin SQ, erythromycin, reglan
   Flowsheet Data as of  [**2172-6-6**] 09:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37
C (98.6
   HR: 85 (83 - 102) bpm
   BP: 109/58(76) {104/48(70) - 142/78(101)} mmHg
   RR: 16 (11 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103 kg (admission): 103.7 kg
   Height: 69 Inch
             Total In:
                                                                  5,370 mL
                                                                  2,365 mL
   PO:
             TF:
                                                                  1,361 mL
                                                                    696 mL
   IVF:
                                                                  1,440 mL
                                                                    568 mL
   Blood products:
   Total out:
                                                                  5,750 mL
                                                                  2,600 mL
   Urine:
                                                                  2,875 mL
                                                                  1,400 mL
   NG:
   Stool:
   Drains:
                                                                  2,875 mL
                                                                  1,200 mL
   Balance:
                                                                   -380 mL
                                                                   -235 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 655 (604 - 895) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 21
   PEEP: 9 cmH2O
   FiO2: 40%
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: 7.44/36/115/24/1
   Ve: 11.9 L/min
   PaO2 / FiO2: 287
   Physical Examination
   Gen: No apparent distress.  Awake, denies pain, some shortness of
   breath.  Follows commands.
   Chest: Heart RRR, S1S2.  Lungs clear.
   Abdomen: slight distension, soft, decreased bowel sounds.
   Ext: No edema.
   Neurologic: Moves all 4 to command.  Left blown pupil (stable)
   Labs / Radiology
   7.5 g/dL
   121 K/uL
   107 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.6 mEq/L
   48 mg/dL
   111 mEq/L
   143 mEq/L
   23.9 %
   25.2 K/uL
        [image002.jpg]
                             [**2172-6-3**]  06:22 PM
                             [**2172-6-4**]  02:29 AM
                             [**2172-6-4**]  03:53 AM
                             [**2172-6-4**]  02:56 PM
                             [**2172-6-4**]  05:25 PM
                             [**2172-6-5**]  02:52 AM
                             [**2172-6-5**]  06:20 PM
                             [**2172-6-5**]  11:47 PM
                             [**2172-6-6**]  12:08 AM
                             [**2172-6-6**]  05:12 AM
   WBC
   33.9
   25.5
   25.2
   Hct
   26.9
   24.0
   23.9
   Plt
   107
   93
   121
   Cr
   1.1
   1.0
   0.9
   0.9
   0.9
   0.9
   TCO2
   23
   24
   23
   25
   Glucose
   116
   109
   216
   117
   92
   107
   Other labs: PT / PTT / INR:20.3/48.0/1.9, CK / CKMB /
   Troponin-T:177/5/, ALT / AST:37/64, Alk Phos / T Bili:136/4.5,
   Differential-Neuts:80.0 %, Band:4.0 %, Lymph:6.0 %, Mono:1.0 %, Eos:0.0
   %, Fibrinogen:219 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:3.6 g/dL,
   LDH:217 IU/L, Ca++:9.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan: 58 year-old man with cirrhosis and asp pneumonia.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]): Aspiration PNA.  On
   vanco/meropenem
 plan for 14 days (has completed 11 days now).
   Cultures remain negative.  Consider stopping Abx early
 will stop
   vancomycin today.  Likely fluid overloaded
 run negative.  CPAP trial,
   then SBT.  Is having lots of secretions. If we are unable to extubated
   tomorrow, or he fails extubation, will need to plan for trach.
 Acute Renal Failure: Improved.  Continue Lasix drip.  Decrease free
   water boluses.
 ALTERED MENTAL STATUS (NOT DELIRIUM): Resolved.  Continue lactulose.
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Ileus
 improved.
   Diabetes: Doing well on insulin drip.
   ICU Care
   Nutrition: Tube Feeds
   Fibersource HN (Full) - [**2172-6-6**] 04:36 AM 70 mL/hour
   Glycemic Control:  Switch to NPH/RISS
   Lines:
   PICC Line - [**2172-5-24**] 07:48 PM
   Arterial Line - [**2172-5-28**] 08:45 AM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: PPI
   VAP: HOD, peridex
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 mins

2172-06-07 08:28:00 Physician Attending Progress Note
Chief Complaint: aspiration PNA
   HPI:
   24 Hour Events:
   Passed SBT yesterday and this AM with RISB 47
extubated during am
   rounds
   Negative 2L, then slightly hypotensive and given 250mL back
   Off insulin drip, off lasix drip
   TF held for extubation
   Complains of nausea
   Allergies:
   Haldol (Oral) (Haloperidol)
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2172-6-6**] 08:00 AM - off
   Meropenem - [**2172-6-7**] 12:15 AM
   Erythromycin - [**2172-6-7**] 02:12 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2172-6-6**] 03:00 PM
   Heparin Sodium (Prophylaxis) - [**2172-6-7**] 12:15 AM
   Other medications: MVI, Rifaximin, folic, B12, Peridex, PhosLo,
   Lactulose, heparin SQ, PPI, reglan
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-6-7**] 08:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 81 (75 - 109) bpm
   BP: 116/52(76) {89/38(58) - 135/85(105)} mmHg
   RR: 18 (15 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103 kg (admission): 103.7 kg
   Height: 69 Inch
             Total In:
                                                                  4,521 mL
                                                                    391 mL
   PO:
             TF:
                                                                  1,324 mL
   IVF:
                                                                  1,607 mL
                                                                    331 mL
   Blood products:
   Total out:
                                                                  6,695 mL
                                                                    770 mL
   Urine:
                                                                  2,895 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
                                                                  3,800 mL
                                                                    350 mL
   Balance:
                                                                 -2,174 mL
                                                                   -379 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 618 (503 - 647) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 47
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.46/36/78/22/1
   Ve: 12 L/min
   PaO2 / FiO2: 195
   Physical Examination
   GEN:  Awake, alert, answering questions, following commands
   Chest: diffuse crackles, but good air movement
   Heart: RRR, S1S2
   Abd: +BS, soft, NT
   Ext: improved edema
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.4 g/dL
   157 K/uL
   187 mg/dL
   0.8 mg/dL
   22 mEq/L
   4.0 mEq/L
   41 mg/dL
   115 mEq/L
   146 mEq/L
   24.0 %
   19.5 K/uL
        [image002.jpg]
                             [**2172-6-4**]  03:53 AM
                             [**2172-6-4**]  02:56 PM
                             [**2172-6-4**]  05:25 PM
                             [**2172-6-5**]  02:52 AM
                             [**2172-6-5**]  06:20 PM
                             [**2172-6-5**]  11:47 PM
                             [**2172-6-6**]  12:08 AM
                             [**2172-6-6**]  05:12 AM
                             [**2172-6-6**]  11:50 AM
                             [**2172-6-7**]  03:38 AM
   WBC
   25.5
   25.2
   19.5
   Hct
   24.0
   23.9
   24.0
   Plt
   93
   121
   157
   Cr
   1.0
   0.9
   0.9
   0.9
   0.9
   0.8
   TCO2
   24
   23
   25
   26
   Glucose
   109
   216
   117
   92
   107
   187
   Other labs: PT / PTT / INR:20.3/48.0/1.9, CK / CKMB /
   Troponin-T:177/5/, ALT / AST:37/64, Alk Phos / T Bili:136/4.5,
   Differential-Neuts:80.0 %, Band:4.0 %, Lymph:6.0 %, Mono:1.0 %, Eos:0.0
   %, Fibrinogen:219 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:3.0 g/dL,
   LDH:217 IU/L, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   C.diff negative
   BAL still negative
   Assessment and Plan
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 multifocal PNA, likely
   aspiration.  Completes meropenem in 2 days.  Run slightly negative.
   Still with secretions but with good cough.  Continue aggressive pulm
   toilet, Nt sx, chest PT.  Extubated during am rounds.  Monitor abgs
   post--If fails, will need tracheostomy.
 HYPERNATREMIA (HIGH SODIUM): Improving.  Correct free water deficit
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Ileus
   Altered Mental Status: Clear now.  Needs lactulose.
   Remainder as per resident note from today.
   ICU Care
   Nutrition:  DHT and TF for nutrition, to get formal swallow eval
   tomorrow given prolonged intubation.
   Glycemic Control:
   Lines:
   PICC Line - [**2172-5-24**] 07:48 PM
   Arterial Line - [**2172-5-28**] 08:45 AM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35mins

2172-06-10 10:47:00 Physician Attending Progress Note
Chief Complaint: resp failure, aspiration pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   lasix + albumin for diuresis
   lactulose increased
   off all abx
   D5w for hypernatremia
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Haldol (Oral) (Haloperidol)
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Last dose of Antibiotics:
   Meropenem - [**2172-6-9**] 12:14 AM
   Erythromycin - [**2172-6-10**] 04:30 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2172-6-9**] 02:42 PM
   Lansoprazole (Prevacid) - [**2172-6-9**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2172-6-10**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-6-10**] 10:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.1
C (97
   HR: 95 (85 - 112) bpm
   BP: 110/48(59) {83/37(47) - 121/80(86)} mmHg
   RR: 19 (15 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103 kg (admission): 103.7 kg
   Height: 69 Inch
         Total In:
                                                                  4,825 mL
                                                                  1,937 mL
   PO:
         TF:
                                                                  1,719 mL
                                                                    750 mL
   IVF:
                                                                  1,336 mL
                                                                    407 mL
   Blood products:
                                                                     50 mL
                                                                    100 mL
   Total out:
                                                                  2,480 mL
                                                                  2,470 mL
   Urine:
                                                                  1,030 mL
                                                                  1,620 mL
   NG:
   Stool:
   800 mL
   Drains:
   50 mL
   Balance:
                                                                  2,345 mL
                                                                   -533 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: ronchi and crackles, poor cough
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Unable to stand
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x1, Movement: Purposeful, No(t) Sedated, Tone:
   Normal
   Labs / Radiology
   7.2 g/dL
   159 K/uL
   215 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.9 mEq/L
   33 mg/dL
   113 mEq/L
   147 mEq/L
   22.7 %
   16.1 K/uL
        [image002.jpg]
                             [**2172-6-7**]  03:38 AM
                             [**2172-6-7**]  08:10 AM
                             [**2172-6-7**]  12:46 PM
                             [**2172-6-7**]  04:46 PM
                             [**2172-6-8**]  03:53 AM
                             [**2172-6-8**]  05:24 PM
                             [**2172-6-8**]  07:47 PM
                             [**2172-6-9**]  04:25 AM
                             [**2172-6-9**]  02:54 PM
                             [**2172-6-10**]  04:29 AM
   WBC
   19.5
   18.7
   19.4
   19.4
   16.1
   Hct
   24.0
   24.7
   23.8
   23.8
   22.7
   Plt
   157
   167
   176
    176
   159
   Cr
   0.8
   0.7
   0.8
   0.9
   0.9
   0.9
   1.0
   TCO2
   24
   23
   Glucose
   187
   170
   200
   [**Telephone/Fax (3) 9334**]
   215
   Other labs: PT / PTT / INR:18.1/58.4/1.6, CK / CKMB /
   Troponin-T:177/5/, ALT / AST:39/69, Alk Phos / T Bili:145/4.3,
   Differential-Neuts:80.0 %, Band:4.0 %, Lymph:6.0 %, Mono:1.0 %, Eos:0.0
   %, Fibrinogen:219 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:2.6 g/dL,
   LDH:193 IU/L, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 LEUKOCYTOSIS
 HYPERNATREMIA (HIGH SODIUM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ASCITES
 HYPERGLYCEMIA
 ALTERATION IN NUTRITION
 IMPAIRED SKIN INTEGRITY
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Ileus
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPOTENSION (NOT SHOCK)
   58 y/o M with history of ETOH cirrhosis c/b encephalopathy, ascites and
   portal gastropathy with recent UGIB.  Found today to be apneic with
   respiratory arrest and likely aspiration s/p intubation with MDR
   enterobacter; extubated [**6-7**]
   > Multifocal pneumonia  - most likely aspiration pneumonia. did not
   pass s/s eval. Off all abx. Off O2.
   > I/O: lasix + albumin, goal 1.5 L neg
   > Hypernatremia: free water
   > Liver failure: good BM. Mental status improved. Needs another EGD to
   look at varices
   > Coagulopathy: INR elevated/Plt count stable
   > Look for LTAC
    Additional issues per ICU resident note.
   ICU Care
   Nutrition:
   Comments: tube feeds, wait for mental status to improve prior to po
   food
   Glycemic Control:  poor: SQ insulin and increase NPH.
   Lines:
   PICC Line - [**2172-5-24**] 07:48 PM
   Arterial Line - [**2172-5-28**] 08:45 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments: aspiration precautions
   Communication: Family meeting held  Comments:
   Code status: DNR (do not resuscitate)
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   Will readdress code status with family.